US07223826B2
Derivatization of Polymer D (NIPAAM/HEMA) with IEM
A three-neck reaction flask fitted with a mechanical stirrer, condenser, dropping funnel, and thermometer was charged with 76 parts of a 32.4% THF solution of Polymer D followed by (0.25 parts) of dibutyltin dilaurate (Sigma-Aldrich) and 0.01 parts of BHT. A solution of IEM (4.77 parts) in THF (10 parts) was slowly added from the dropping funnel and the resulting solution heated at 40° C. for 30 minutes. The resulting polymer solution was cooled to room temperature, poured into a large excess of cyclohexane (approximately 5 times volume of reaction mixture), and the precipitated solid collected by filtration and dried in a 30° C. vacuum oven. The dried white solid was designated Example 2 and identified as the polymer of NIPAAM/HEMA with a plurality of the HEMA monomeric units derivatized with IEM to provide monomeric units of the following structure (Me=CH3):

reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | C1CCOC1 | C4H8O
product | HEMA | CC(=C)C(=O)OCCO | C6H10O3
